US06610701B2
A solution of 2-azidomethyl-benzonitrile (0.59 g, 3.7 mmol), tin (II) chloride (1.0 g, 5.5 mmol) and di-tert-butyl dicarbonate (1.2 g, 5.5 mmol) in methanol (16 ml) and tetrahydrofuran (8 ml) was stirred at room temperature for 1 h. Concentration and flash chromatography (silica gel, hexane-ethyl acetate, 85:15) gave (2-cyano-benzyl)-carbamic acid tert-butyl ester; 1H NMR (CDCl3, 400 MHz) δ7.64 (d, 1H, J=7.8 Hz), 7.58 (m, 1H), 7.52 (m, 1H), 7.37 (m, 1H), 5.12 (bs, 1H), 4.50 (d, 2H, J=6 Hz), 1.45 (s, 9H).

reactant | 2-azidomethyl-benzonitrile | 3.7 mmol, 0.59 g | N(=[N+]=[N-])CC1=C(C#N)C=CC=C1 | C8H6N4
reactant | tin (II) chloride | 5.5 mmol, 1.0 g | [Sn](Cl)Cl
reactant | di-tert-butyl dicarbonate | 5.5 mmol, 1.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 16 ml | CO | CH4O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | (2-cyano-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C=CC=C1)C#N)=O | C13H16N2O2
